US07446113B2
3-Pyridin-2-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 2-bromopyridine [CAS 109-04-6; commercially available] (237 mg, 1.5 mmol) according to general procedure II. Obtained as a yellow solid (345 mg, 80%). MS (ISP) 433.2 [(M+H)+]; mp 158-159° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 3-Pyridin-2-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | N1=C(C=CC=C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C21H10F6N4
